US07265120B2
Potassium carbonate (77 mg) was added to a solution of 6-(5-hydroxy-6-methyl-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg) and iodoacetamide (95 mg) in DMA (1 ml) and the mixture was stirred at 20-25° C. for 2 hours. To the reaction mixture, potassium carbonate (235 mg) was added and heated at 150-155° C. for 2 hours. After addition of water, the mixture was extracted with CHCl3, washed with brine, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (20:80 v/v) to give 6-(5-amino-6-methyl-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone as a solid (97 mg).

reactant | Potassium carbonate | 77 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(5-hydroxy-6-methyl-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | OC=1N=C(C(=NC1C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H18N4O2
reactant | iodoacetamide | 95 mg | ICC(=O)N | C2H4INO
reactant | potassium carbonate | 235 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 6-(5-amino-6-methyl-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 97 mg | NC=1N=C(C(=NC1C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C18H19N5O
